US04053596
A. 1-Dimethylaminopropyl-3,4-dihydronaphthalene
The Grignard reagent from 300 g (2.5 moles) of dimethylaminopropyl chloride and 60 g (2.5 moles) of magnesium turnings is prepared in 2 l. of tetrahydrofuran. To this is added 300 g (2.0 moles) of α-tetralone in 1 l. of tetrahydrofuran, at a rate to maintain reflux. After the addition the reflux is continued for 1.5 hours, then the mixture is cooled in ice and quenched with 500 ml of saturated ammonium chloride. The layers are separated, and the aqueous diluted with water and reextracted with ether. The organics are evaporated, then treated with a mixture of 350 ml of concentrated HCl and 1400 ml of glacial acetic acid at reflux for 1/2 hour. The solvents are removed in vacuo, and the residue taken up in water, and the aqueous extracted with benzene. Basification liberates the product which is extracted with benzene, dried over carbonate, the solvent evaporated, and the product distilled at 129° C, 0.3 mmHg to give 250 g (58%) of a light yellow liquid, 1-dimethylaminopropyl-3,4-dihydronaphthalene.

reactant | dimethylaminopropyl chloride | 2.5 moles, 300 g | CN(C)CCCCl | C5H12ClN
reactant | magnesium | 2.5 moles, 60 g | [Mg] | Mg
reactant | α-tetralone | 2.0 moles, 300 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Dimethylaminopropyl-3,4-dihydronaphthalene | 250 g, 58% | CN(C(CC)C1=CCCC2=CC=CC=C12)C | C15H21N
